US07834048B2
1.2 1-((1R,5S,6R)-6-Phenyl-3-aza-bicyclo[3.2.0]hept-3-yl)-propan-1-one
2.82 g of (1R,5S,6R)-6-phenyl-3-aza-bicyclo[3.2.0]heptane (16.28 mmol) were dissolved in 45 ml of tetrahydrofuran and 4.53 ml of triethylamine were added (32.55 mmol). At −5° C., a solution of 2.33 g of propionic acid anhydride (17.9 mmol) in 5 ml of tetrahydrofuran was added dropwise. After stirring for 2 h at room temperature, the reaction mixture was treated with 3 ml of 7 N ammonia in methanol, stirred for 10 minutes, and the solvents were evaporated. The residue was redissolved in ethyl acetate and washed with water and saturated aqueous sodium chloride. The organic layer was dried over magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure. The residue was redissolved in 70 ml of diethyl ether, washed twice with water and once with saturated aqueous sodium hydrogen carbonate. The organic phase was again dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure to yield 3.64 g of the product.

reactant | (1R,5S,6R)-6-phenyl-3-aza-bicyclo[3.2.0]heptane | 16.28 mmol, 2.82 g | C1(=CC=CC=C1)[C@H]1[C@@H]2CNC[C@@H]2C1 | C12H15N
reactant | triethylamine | 4.53 ml | C(C)N(CC)CC | C6H15N
reactant | propionic acid anhydride | 17.9 mmol, 2.33 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ammonia | 7 N, 3 ml | N | H3N
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-((1R,5S,6R)-6-Phenyl-3-aza-bicyclo[3.2.0]hept-3-yl)-propan-1-one | 3.64 g | C1(=CC=CC=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)C(CC)=O | C15H19NO
